US09381191B2
1.41 g (3.08 mmol) of 2-((3-((3-(trifluoromethyl)phenyl)ethynyl) imidazo[1,2-a]pyridin-2-yl)methyl) isoindoline-1,3-dione were solubilised in 30 ml of ethanol with magnetic stirring, 0.978 ml (30.8 mmol) of hydrazine monohydrate were added. The mixture gradually became milky and was stirred at r.t. for 1.5 h. The suspended solid was isolated by filtration and washed with 2×25 ml of ethanol. The filtrate was concentrated in vacuo. The residue was triturated in 20 ml of ethanol, the solid was isolated by filtration and the filtrate concentrated in vacuo in order to obtain 0.715 g (yield=69%) of (3-((3-(trifluoromethyl)phenyl)ethynyl)imidazo[1,2-a]pyridin-2-yl)methanamine as a pale yellow solid. LC-MS: m/z=316 (MH+); UV purity at 254 nm=94%. 1H NMR (300 MHz, DMSO) δ 8.73 (d, J=6.7 Hz, 1H), 8.12 (s, 1H), 7.98 (d, J=7.7 Hz, 1H), 7.82-7.63 (m, 3H), 7.49-7.40 (m, 1H), 7.13 (td, J=6.8, 1.1 Hz, 1H), 3.96 (s, 2H).

reactant | 2-((3-((3-(trifluoromethyl)phenyl)ethynyl) imidazo[1,2-a]pyridin-2-yl)methyl) isoindoline-1,3-dione | 3.08 mmol, 1.41 g | FC(C=1C=C(C=CC1)C#CC1=C(N=C2N1C=CC=C2)CN2C(C1=CC=CC=C1C2=O)=O)(F)F | C25H14F3N3O2
reactant | hydrazine monohydrate | 30.8 mmol, 0.978 ml | O.NN
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | (3-((3-(trifluoromethyl)phenyl)ethynyl)imidazo[1,2-a]pyridin-2-yl)methanamine | 0.715 g, yield=69% | FC(C=1C=C(C=CC1)C#CC1=C(N=C2N1C=CC=C2)CN)(F)F | C17H12F3N3
